US06329389B1
Ethyl 7-chloro-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylate
Sodium borohydride (2.082 g) was added to an ethanol (200 ml) solution of diethyl 2-[(4-chloro-2-nitrophenyl)methylidene]malonate(34.92 g). The reaction mixture was stirred at 0° C. for one hour, to which was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, then dried and concentrated. Iron (26.70 g) was added to an aqueous acetic acid (300 ml) solution of the residue, which was heated under reflux. The reaction mixture was left standing for cooling, and ethyl acetate (300 ml) was added to the reaction mixture. The precipitated insoluble substances were removed by filtration and the filtrate was concentrated. The organic layer was washed with water and a saturated aqueous sodium chloride solution and then dried and concentrated. The obtained crude crystals were washed with IPE to give the entitled compound (14.50 g).

reactant | Sodium borohydride | 2.082 g | [BH4-].[Na+]
reactant | ethanol | 200 ml | C(C)O | C2H6O
reactant | diethyl 2-[(4-chloro-2-nitrophenyl)methylidene]malonate | 34.92 g | ClC1=CC(=C(C=C1)C=C(C(=O)OCC)C(=O)OCC)[N+](=O)[O-] | C14H14ClNO6
solvent | water | O | H2O
product | Ethyl 7-chloro-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylate | 14.50 g | ClC1=CC=C2CC(C(NC2=C1)=O)C(=O)OCC | C12H12ClNO3
